US06355636B1
To 1.9 g of 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile in 30 mL of absolute ethanol was added 1.6 mL of 3-bromoaniline. After refluxing the reaction under an inert atmosphere for 8 hours, the reaction mixture was cooled to 0° C. and the product was filtered and washed with cold ethanol. Drying in vacuo yielded 2.7 g (87%) of 4-(3-bromo-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile as an off-white solid: melting point 185-195° C.; mass spectrum (m/e): M+H 343.0, 345.1.

reactant | 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 1.9 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 3-bromoaniline | 1.6 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(3-bromo-phenylamino)-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 2.7 g, 87% | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H8BrFN4
